US07132436B2
3-Chloro-N-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide
The title compound was prepared from 4-(2-chlorophenyl)-1,3-thiazol-2-amine and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (45.3 mg) with purity >90%: MS (pos) m/z 399.1, 401.1; HRMS m/z 397.9711 (calc. of monoisotopic mass for C16H12Cl2N2O2S2 gives 397.9117).

reactant | 4-(2-chlorophenyl)-1,3-thiazol-2-amine | ClC1=C(C=CC=C1)C=1N=C(SC1)N | C9H7ClN2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C1=C(C=CC=C1)Cl)C | C16H12Cl2N2O2S2
